US07615568B2
D. 3-[2-(3-t-Butoxycarbonylaminopropoxy)-4-(propylthio)-benzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide
Using a procedure analogous to Example 1-G, 2-(3-t-butoxycarbonylaminopropoxy)-4-(propylthio)benzoic acid and 3-amino-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide gave the title compound as a solid product (2.82 g, 90%).

reactant | 2-(3-t-butoxycarbonylaminopropoxy)-4-(propylthio)benzoic acid | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)O)C=CC(=C1)SCCC | C18H27NO5S
reactant | 3-amino-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide | NC=1C(=NC=CC1)C(=O)NC1=NC=C(C=C1)Cl | C11H9ClN4O
product | 3-[2-(3-t-Butoxycarbonylaminopropoxy)-4-(propylthio)-benzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)NC=2C(=NC=CC2)C(=O)NC2=NC=C(C=C2)Cl)C=CC(=C1)SCCC | C29H34ClN5O5S
